US07160875B2
(S)-7-amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one was coupled with 2-methyl-N-(3,3,4,4,4-pentafluoro-butyl)-malonamic acid in analogy to the description in example 73 to yield N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-methyl-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide (epimers) as white solid.

reactant | (S)-7-amino-5-cyclopropylmethyl-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CC1CC1)C=CC=C3)C=CC=C2 | C18H18N2O
reactant | 2-methyl-N-(3,3,4,4,4-pentafluoro-butyl)-malonamic acid | CC(C(=O)O)C(=O)NCCC(C(F)(F)F)(F)F | C8H10F5NO3
product | N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-methyl-N′-(3,3,4,4,4-pentafluoro-butyl)-malonamide | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)NCCC(C(F)(F)F)(F)F)C)=O)C=CC=C3)C=CC=C2 | C26H26F5N3O3
